US04550166
A 13.4 ml portion of N,N-dimethylformamide in 300 ml of methylene chloride was cooled to 0° C. An 11.1 ml portion of oxalyl chloride in 50 ml of methylene chloride was added dropwise over 10 minutes. The solution was allowed to warm to 20° C. and stirred for 30 minutes. The volatiles were removed at reduced pressure leaving a flocculent white powder. A 10.0 g portion of 3-pyridineacetic acid hydrochloride salt was added followed by 50 ml of N,N-dimethylformamide. This solution was stirred at 20° C. for 30 minutes and then warmed to 80° C. for 72 hours. The black solution was cooled to 20° C., 8.13 g of t-butyl cyanoacetate in 50 ml of N,N-dimethylformamide was added and the solution was cooled to 0° C. A 36 ml portion of triethylamine was added over 5 minutes and the solution was allowed to warm to 20° C. and was stirred for one hour. The solution was then poured onto 500 ml of water and extracted with three 150 ml portions of methylene chloride. The organic layers were combined, washed with brine, dried and the volatiles removed at reduced pressure. The residue was purified by chromatography, using a Waters 500 HPLC, two columns and eluting with acetone:hexane (2:3). The resulting oil was crystallized from ether-hexane, giving 1,1-dimethylethyl 2-cyano-5-(dimethylamino)-4-(3-pyridinyl)-2,4-pentanedienoate as yellow crystals, mp 161°-63° C.

reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-pyridineacetic acid hydrochloride salt | Cl.N1=CC(=CC=C1)CC(=O)O
reactant | t-butyl cyanoacetate | 8.13 g | C(#N)CC(=O)OC(C)(C)C | C7H11NO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | 500 ml | O | H2O
product | 1,1-dimethylethyl 2-cyano-5-(dimethylamino)-4-(3-pyridinyl)-2,4-pentanedienoate | C(#N)C(C(=O)OC(C)(C)C)=CC(=CN(C)C)C=1C=NC=CC1 | C17H21N3O2
